US05270309
Treatment of ethyl 5-bromo-7-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate (0.59 g) with sodium hydroxide (0.247 g). as described in Example 1a, gave 5-bromo-7-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid (0.378 g), mp 276° C. (dec.) δ (360 MHz, DMSO-d6) 1.21 (3H, t, CH3), 2.66 (2H, q, CH2), 6.54 (1H, s, 3-H), 7.79 (1H, d, 8-H) and 11.75 (1H, bs, NH), (Found: C, 46.17; H, 3.76; N, 4.48%, C12H10BrNO3. 0.9H2O requires C, 46.14; H, 3.80; N, 4.48%).

reactant | ethyl 5-bromo-7-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylate | 0.59 g | BrC1=C2C(C=C(NC2=CC(=C1)CC)C(=O)OCC)=O | C14H14BrNO3
reactant | sodium hydroxide | 0.247 g | [OH-].[Na+]
product | 5-bromo-7-ethyl-4-oxo-1,4-dihydroquinoline-2-carboxylic acid | 0.378 g | BrC1=C2C(C=C(NC2=CC(=C1)CC)C(=O)O)=O | C12H10BrNO3
